US06897231B2
C. [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-(4-fluorophenyl)carboxamide.2HCl
Prepared according to the procedure of Example 367 C using (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-(4-fluorophenyl)carboxamide.2HCl (1.50 g, 3.15 mmol), N-amino-2-(dimethylamino) acetamide (1.2 g, 10.33 mmol) and sodium methoxide (1.8 mL of a 25% w/w in methanol) in anhydrous methanol (20.0 mL) with a reaction time of 1.5 days. Purification by flash chromatography on silica gel using 50% methanol in ethyl acetate afforded a solid which was dissolved in anhydrous methanol and treated with anhydrous hydrogen chloride gas for 10 min at 0° C. After stirring at ambient temperature for 5 min anhydrous ethyl acetate was added to precipitate the desired product which was collected on a sintered glass funnel, washed with methanol and ethyl acetate and dried under vacuum to give the title compound (267 mg, 50% yield) as a light yellow solid 1H NMR (DMSO-d6) δ 13.5 (br s, 1H), 10.5 (s, 1H), 8.5 (s, 1H), 8.2 (br d, 1H), 8.1 (d, 1H), 8.0 (d, 1H), 7.84 (dd, 2H), 7.75-7.6 (m, 2H), 7.2 (t, 2H), 3.6 (bs, 2H), 2.2 (s, 6H), ES-MS (m/z) 456 [M+H]+.

reactant | (3-[5-(ethoxyiminomethyl)(1H-indazol-3-yl)]phenyl)-N-(4-fluorophenyl)carboxamide | C(C)ON=CC=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)F | C23H19FN4O2
reactant | N-amino-2-(dimethylamino) acetamide | 10.33 mmol, 1.2 g | NNC(CN(C)C)=O | C4H11N3O
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 20.0 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(5-(3-[(dimethylamino)methyl](1H-1,2,4-triazol-5-yl))(1H-indazol-3-yl))phenyl]-N-(4-fluorophenyl)carboxamide | 267 mg, 50% yield | CN(C)CC1=NNC(=N1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)F | C25H22FN7O
